Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___.
 
Chief Complaint:
hypoglycemia and hyponatremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with CAD, afib, dm2, wheelchair from polyneuropathy presents 
with hypoglycemia. He states that "my caretaker detected that 
something was wrong". He was noted to have a ___ in the ___ and 
EMS was called. He was given oral glucose with an improvement in 
the sugars and in the ED at ___, sugars remained above 100. He 
denies f/c, nausea or vomiting. He denies dizziness or 
lightheadedness. CXR was negative. Labs were remarkable for 
hyponatremia with sodium 122. He was admitted to hospitalist 
service
.
ROS otherwise negative
 
Past Medical History:
# CAD s/p PCI x 2 with a history of MI and angioplasty ___ years 
ago. His most recent cardiac catheterization was in ___ at ___ which revealed non-flow 
limiting three-vessel disease and no intervention was performed 
at that time  
# Atrial flutter/atrial tachycardia status post ablation in 
___ with breakthrough atrial tachycardia and atrial 
flutter  
# DM type II c/b neuropathy  
# PVD followed by Dr. ___  
# Colon Ca -- s/p partial colectomy ___, no radiation or 
chemotherapy  
# Neuropathy -- progressing to R arm now; legs unchanged, uses 
wheelchair  
# Spinal stenosis -- MRI performed ___, no emergent issues, 
but  
some retrolisthesis of L4-5  
# Concern for alcohol abuse  
.

 
Social History:
___
Family History:
No history of premature cardiac disease. Both parents died at ___ 
of "old age."
 
Physical Exam:
VS: Temp: 98.3  BP: 119/78  HR: 90  RR: 18  O2sat: 95 RA  
.  
Gen: In NAD.  
HEENT: PERRL, EOMI. No scleral icterus. No conjunctival 
injection. Mucous membranes moist. No oral ulcers.  
Neck: Supple, no LAD, no JVP elevation.  
Lungs: CTA bilaterally, no wheezes, rales, rhonchi. Normal 
respiratory effort.  
CV: RRR, no murmurs, rubs, gallops.  
Abdomen: soft, NT, ND, NABS  
Extremities: warm and well perfused, no cyanosis, clubbing, 
edema.  
Neurological: alert and oriented X 3, CN II-XII intact. Muscle 
strength is full throughout. Sensation to light touch is intact 
throughout. Reflexes are equal and normal. There is no pronator 
drift.  
No dysmetria on finger to nose.  
Skin: No rashes or ulcers.  
Psychiatric: Appropriate.  
 
Pertinent Results:
___ 10:35PM URINE  HOURS-RANDOM
___ 10:35PM URINE  GR HOLD-HOLD
___ 10:35PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000 KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 06:17PM   GLUCOSE-116* UREA N-12 CREAT-0.7 SODIUM-122* 
POTASSIUM-4.6 CHLORIDE-87* TOTAL CO2-28 ANION GAP-12
___ 06:17PM   estGFR-Using this
___ 06:17PM   WBC-5.9 RBC-4.10* HGB-12.1* HCT-34.3* MCV-84 
MCH-29.4 MCHC-35.2* RDW-17.2*
___ 06:17PM   NEUTS-59.5 ___ MONOS-6.3 EOS-3.9 
BASOS-0.7
___ 06:17PM   PLT COUNT-308
.
CHEST (PORTABLE AP)
IMPRESSION: No acute cardiopulmonary process. Specifically, no 
evidence of 
effusions or consolidation. 
.
EKG:
Sinus rhythm with atrial premature complexes 
Leftward axis 
Low limb lead QRS voltages 
Findings are nonspecific 
Since previous tracing of ___, atrial fibrillation absent 
Rate PR QRS QT/QTc P QRS T 62 ___ 100 -41 ___/P:  
___ with CAD, afib, dm2, wheelchair from polyneuropathy presents 
with hypoglycemia
.  
1. Hypoglycemia:
Hypoglycemia is likely ___ insulin and poor PO intake. This 
resolved after arrival in the ED. No fever or leukocytosis to 
suggest infection. UA and CXR neg.
- during last hospital stay was on lantus 14 qAM. Initially 
lantus dose was decreased to 8 units, with subsequent blood 
sugars as high as 402 (on sliding scale coverage). lantus dose 
increased to 12 units starting ___ in AM. Will follow up with 
his ___ physicians after discharge.
. 
# Hyponatremia
Previous record of hyponatremia, likely lasix is contributing. 
Hypovolemia may be contributing as well. Na at admission was 
122, where it is usually in 130s. lasix held. IVF administered. 
On ___ sodium was up to 125. Patient was given more IVF. lasix 
dose changed to 20 mg q other day.  Patient should have it 
recheck by PCP at his next appointment.
.
# CAD:
no symptoms of ischemia. asa, plavix, statin, BB continued. 
.
# Afib:
Now in SR. on asa rather than coumadin because not a good 
anticoagulation with falls. Also on metoprolol, digoxin.
.
# Peripheral neuropathy: cymblata and gabapentin were continued.

 
Medications on Admission:
albuterol 2 puffs oral q4-6 hrs prn
lipitor 40'
asa 325'
plavix 75'
metoprolol 50"
lasix 20'
digoxin 125'
ferrous sulfate 325'
cymbalta EC 30' 
gabapentin 300 TID
folate 1'
ativan 0.5 HS:PRN
Lantus
Novolog
 
Discharge Medications:
1. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
2. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
6. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
9. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. Furosemide 20 mg Tablet Sig: One (1) Tablet PO Q OTHER DAY 
().  
11. Albuterol 90 mcg/Actuation Aerosol Sig: ___ puffs Inhalation 
every ___ hours as needed for shortness of breath or wheezing.  
12. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO once a day.  
13. Insulin Glargine 100 unit/mL Solution Sig: Twelve (12) units 
Subcutaneous at breakfast.  
14. Novolog 100 unit/mL Solution Sig: AS DIR  Subcutaneous AS 
DIR: AS PER HOME SLIDING SCALE.  
15. Ativan 0.5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hypoglycemia
Hyponatremia - likely secondary to diuretics
Diabetes mellitus, type II, uncontrolled, with neurologic 
complications
Severe diabetic peripheral neuropathy
CAD
A.Fib
HTN
Hyperlipidemia
PVD
Colon CA

 
Discharge Condition:
Good

 
Discharge Instructions:
You were admitted for low blood sugar and low sodium. Your 
insulin and furosemide were adjusted accordingly. Continue to 
check your blood sugar before each meal and at bedtime and take 
sliding scale insulin as prescribed by ___ clinic MD. ___ 
___ or your primary care physician if you have symptoms of 
low blood sugar, blood sugar is less than 70 or more than 400.
 
Followup Instructions:
___